US04396770
1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-hydroxy-4-(4-methoxyphenyl)piperidine hydrochloride
A solution of 6.3 g of 1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-4-piperidone in 35 ml of tetrahydrofuran was slowly added to a solution of 49 ml of p-anisylmagnesium bromide (1.4 M in tetrahydrofuran). After the addition was complete, the reaction mixture was stirred at ambient temperature for one hr, diluted with ether, poured into 400 of ml saturated ammonium chloride solution and extracted with ether. The organic extracts were washed with water (2×), saturated sodium chloride solution and dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was converted to 8.5 g (89%) of product, mp 100°-105° C., by treatment with ethereal hydrogen chloride. An analytical sample was obtained by recrystallization from ethyl acetate/methanol and had mp 181°-182° C. (dec).

reactant | 1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-4-piperidone | 6.3 g | FC1=CC2=C(C(=NO2)CCCN2CCC(CC2)=O)C=C1 | C15H17FN2O2
reactant | p-anisylmagnesium bromide | 1.4 M, 49 ml | C(C1=CC=C(C=C1)OC)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-hydroxy-4-(4-methoxyphenyl)piperidine hydrochloride | Cl.FC1=CC2=C(C(=NO2)CCCN2CCC(CC2)(C2=CC=C(C=C2)OC)O)C=C1 | InChI=1S/C22H25FN2O3.ClH/c1-27-18-7-4-16(5-8-18)22(26)10-13-25(14-11-22)12-2-3-20-19-9-6-17(23)15-21(19)28-24-20;/h4-9,15,26H,2-3,10-14H2,1H3;1H
